US03951978
The 1-p-Fluorobenzoyl-1-phenoxy-3-chloropropane is prepared as follows: a solution of 30 g. of 1-p-fluorobenzoyl-1-bromo-3-chloropropane in 100 cc. anhydrous acetone is added slowly, during half an hour and with stirring, to a suspension of 10.1 g. of phenol, 1.08 g. sodium iodide and 25.2 g. K2CO3 in 350 cc. anhydrous acetone. When the addition is complete, the mixture is refluxed for 12 hours. The solid contained therein is filtered off and the filtrate is evaporated to dryness under reduced pressure. The residual oil is fractionated in a vacuum and the product is collected as a yellow oil. (b.p. 165°-70°C/0.6 Torr).

reactant | 1-p-fluorobenzoyl-1-bromo-3-chloropropane | FC1=CC=C(C(=O)C(CCCl)Br)C=C1 | C10H9BrClFO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium iodide | [I-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-p-Fluorobenzoyl-1-phenoxy-3-chloropropane | FC1=CC=C(C(=O)C(CCCl)OC2=CC=CC=C2)C=C1 | C16H14ClFO2
